US05703106
A mixture of 3,5-dimethylbenzamide (22.6 g, 0.15 mol) and glyoxylic acid monohydrate (15.3 g, 0.17 mol) in acetone (120 ml) is heated under nitrogen atmosphere at reflux for 6 h. The solvent is evaporated in vacuo to give 2-hydroxy-N-(3,5-dimethylbenzoyl)glycine. To a solution of 2-hydroxy-N-(3,5-dimethylbenzoyl)glycine in methanol (350 ml) is added concentrated sulfuric acid (4.6 ml) at room temperature. The mixture is stirred for 2 days and then concentrated in vacuo. The residue is diluted with ethyl acetate, washed with two portions of saturated sodium bicarbonate solution and with two portions of brine. The organic layer is dried over magnesium sulfate and concentrated in vacuo to give 2-methoxy-N-(3,5-dimethylbenzoyl)glycine methyl ester.

reactant | 3,5-dimethylbenzamide | 0.15 mol, 22.6 g | CC=1C=C(C(=O)N)C=C(C1)C | C9H11NO
reactant | glyoxylic acid monohydrate | 0.17 mol, 15.3 g | O.C(C=O)(=O)O
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | 2-hydroxy-N-(3,5-dimethylbenzoyl)glycine | OC(NC(C1=CC(=CC(=C1)C)C)=O)C(=O)O | C11H13NO4
